US07223793B2
Preparation of 2-[3-(3,4-dihydroxyphenyl)propionylamino]-succinic acid (BN30067)
2-[3-(3,4-dihydroxyphenyl)propionylamino]-succinic acid dibenzyl ester (12 g), prepared in Example 14, was dissolved in tetrahydrofuran (100 mL) and treated with 2M lithium hydroxide (126 mL). The resulting mixture was stirred for 18 hours at room temperature. The resulting reaction was neutralized with aqueous hydrochloric acid, extracted with ethylacetate (EtOAc) (500 mL), dried over magnesium sulfate, concentrated under reduced pressure and purified by silica gel column chromatography (column size: 25 mm×150 mm, silica gel 70-230 mesh, eluent: MC/MeOH (5/95)) to obtain 4.28 g of the title compound. The yield was 57%. The results of analyses of the compound are as follows:

reactant | 2-[3-(3,4-dihydroxyphenyl)propionylamino]-succinic acid dibenzyl ester | 12 g | C(C1=CC=CC=C1)OC(C(CC(=O)OCC1=CC=CC=C1)NC(CCC1=CC(=C(C=C1)O)O)=O)=O | C27H27NO7
reactant | lithium hydroxide | 2M, 126 mL | [OH-].[Li+]
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
product | 2-[3-(3,4-dihydroxyphenyl)propionylamino]-succinic acid | 4.28 g, yield was 57% | OC=1C=C(C=CC1O)CCC(=O)NC(C(=O)O)CC(=O)O | C13H15NO7
